US08252935B2
To a solution of a mixture of 4-methyl-2-(5-{1-[4-methyl-1-(4-trifluoromethyl-phenyl)-pentyl]-piperidin-4-yl}-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid ethyl ester and methyl ester (56 mg, 0.09 mmol) in MeOH (1 mL) was added 3N NaOH (0.060 mL) and heated to 50° C. for 2 h. The reaction was concentrated in vacuo to remove MeOH. The thick liquid was acidified to pH=2 by 2N HCl. The resulting acidic solution was extracted with EtOAc. The organic fraction was dried (MgSO4) and concentrated in vacuo. The crude mixture was purified by ISCO column chromatography to obtain 4-methyl-2-(5-{1-[4-methyl-1-(4-trifluoromethyl-phenyl)-pentyl]-piperidin-4-yl}-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid.

reactant | 4-methyl-2-(5-{1-[4-methyl-1-(4-trifluoromethyl-phenyl)-pentyl]-piperidin-4-yl}-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid ethyl ester | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1CCN(CC1)C(CCC(C)C)C1=CC=C(C=C1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)=O | C39H47F6NO2
reactant | NaOH | 3N, 0.060 mL | [OH-].[Na+]
solvent | MeOH | 1 mL | CO | CH4O
product | 4-methyl-2-(5-{1-[4-methyl-1-(4-trifluoromethyl-phenyl)-pentyl]-piperidin-4-yl}-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid | CC(CC(C(=O)O)C=1C=C(C=C(C1)C1CCN(CC1)C(CCC(C)C)C1=CC=C(C=C1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)C | C37H43F6NO2
